US04760163
using isopropyl 2-bromo-4-chloro-5-ureidobenzoate and ethyl cyclopentanone-2-carboxylate in toluene there is obtained isopropyl 2-bromo-4-chloro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate, m.p. 131°-132° C.,

reactant | isopropyl 2-bromo-4-chloro-5-ureidobenzoate | BrC1=C(C(=O)OC(C)C)C=C(C(=C1)Cl)NC(=O)N | C11H12BrClN2O3
reactant | ethyl cyclopentanone-2-carboxylate | CCOC(=O)C1CCCC1=O | C8H12O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | isopropyl 2-bromo-4-chloro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate | BrC1=C(C(=O)OC(C)C)C=C(C(=C1)Cl)NC(=O)NC1=C(CCC1)C(=O)OCC | C19H22BrClN2O5
